US09340554B2
Synthesis of N-ethyl-4-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yloxy]cyclohexan-1-amine hydrochloride
To a 100-mL round-bottom flask was added tert-butyl N-ethyl-N-(4-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yloxy]cyclohexyl)carbamate (300 mg, 0.72 mmol, 1.00 equiv) and ether (20 mL). Hydrogen chloride (g) was introduced at 0-5° C. The resulting solution was stirred for 5 h at 0-5° C. in a water/ice bath. The resulting mixture was concentrated under vacuum. This resulted in 240 mg (94%) of N-ethyl-4-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yloxy]cyclohexan-1-amine hydrochloride as a light yellow solid.

reactant | tert-butyl N-ethyl-N-(4-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yloxy]cyclohexyl)carbamate | 0.72 mmol, 300 mg, 1.00 equiv | C(C)N(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CCCC3C12 | C22H31N3O3S
reactant | Hydrogen chloride | Cl | ClH
solvent | ether | 20 mL | CCOCC | C4H10O
product | N-ethyl-4-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yloxy]cyclohexan-1-amine hydrochloride | Cl.C(C)NC1CCC(CC1)OC1=NC=NC=2SC=3CCCC3C12 | InChI=1S/C17H23N3OS.ClH/c1-2-18-11-6-8-12(9-7-11)21-16-15-13-4-3-5-14(13)22-17(15)20-10-19-16;/h10-12,18H,2-9H2,1H3;1H
